### PR TITLE
[Merged by Bors] - feat(Analysis/Convex/Basic): two useful lemmas on pointwise operations 

### PR DESCRIPTION
**Pull request by khwilson**
In proofs about locally convex spaces, it's common to need that `(1/2) * s + (1/2) * s = s` for convex `s` and that `closure s <= s + s` when `s` is open and contains `0`. We add these lemmas, which will be used ultimately in a proof of Michael's selection theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Group/Pointwise.lean [hunk 1]
```diff
@@ -253,6 +252,16 @@ lemma IsOpen.mul_closure_one_eq {U : Set G} (hU : IsOpen U) :
     U * (closure {1} : Set G) = U :=
   compl_mul_closure_one_eq_iff.1 (hU.isClosed_compl.mul_closure_one_eq)
 
+@[to_additive]
+theorem IsOpen.closure_subset_mul_self_of_one_mem {U : Set G} (hopen : IsOpen U)
+    (h : 1 ∈ U) : closure U ⊆ U * U := by
+  intro x hx
+  rw [mem_closure_iff_nhds] at hx
+  have hkey : (fun y => x / y) ⁻¹' U ∈ 𝓝 x :=
+    (hopen.preimage (continuous_const.div' continuous_id)).mem_nhds (by simpa)
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Group/Pointwise.lean]: You don't need `U` to be open, only a neighborhood of the identity:
```suggestion
theorem closure_subset_mul_self_of_mem_nhds_one {U : Set G} (hU : U ∈ 𝓝 1) :
    closure U ⊆ U * U := by
  intro x hx
  rw [mem_closure_iff_nhds] at hx
  have hkey : (fun y => x / y) ⁻¹' U ∈ 𝓝 x :=
    ContinuousAt.preimage_mem_nhds (by fun_prop) (by simpa)
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Algebra/Group/Pointwise.lean (hunk 1 above)
Comment (khwilson) [reply Mathlib/Topology/Algebra/Group/Pointwise.lean]: Fair enough!
